US04533731
In 2.58 ml of sulfuric acid was dissolved 1.5 g of 3-(3-diethylaminopropylamino)indazole. To the solution were added dropwise 0.41 ml of nitric acid (d=1.42) and 0.41 ml of sulfuric acid (sp.gr. 1.84) under cooling with ice, and the solution was stirred for 2 hours at 5°-10° C. To 12.1 ml of ice and water was added the solution, and the pH of the solution was adjusted to at least 11 with an aqueous ammonia solution. Then the solution was extracted with chloroform. The chloroform layer was dried over anhydrous sodium sulfate and chloroform was removed under reduced pressure. The residue was dissolved in 50 ml of anhydrous benzene. To the solution were added 10 g of iron powder and 2 ml of hydrochloric acid, and the solution was stirred for 30 minutes at 80° C. The reaction solution was added with 0.5 ml of water and stirred for 10 hours at 80° C. After cooling, the solution was filtered. The benzene layer of the filtrate was extracted three times with 20 ml of 1N hydrochloric acid. The pH of the hydrochloric acid layer was adjusted to at least 11 and the alkali layer was extracted with chloroform. The chloroform layer was dried over anhydrous sodium sulfate and chloroform was removed under reduced pressure. The residue thus obtained was subjected to an alumina-column chromatography (alumina: 100 g) using chloroform as the developing solvent to give 0.69 g of 3-(3-diethylaminopropylamino)-5-aminoindazole having the following analytical values in a yield of 44%.

reactant | 3-(3-diethylaminopropylamino)indazole | 1.5 g | C(C)N(CCCNC1=NNC2=CC=CC=C12)CC | C14H22N4
reactant | nitric acid | 0.41 ml | [N+](=O)(O)[O-] | HNO3
reactant | water | O | H2O
reactant | ammonia | N | H3N
solvent | sulfuric acid | 2.58 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 0.41 ml | S(O)(O)(=O)=O | H2O4S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(3-diethylaminopropylamino)-5-aminoindazole | 0.69 g, yield of 44% | C(C)N(CCCNC1=NNC2=CC=C(C=C12)N)CC | C14H23N5
